US06201006B1
Synthesis of 1-ethyl-2-[2-[(S)-1-[[(R)-1-(2-oxo-3-oxolanyl)pyrrolidin-2-yl]carbonyl]pyrrolidin-2-yl]ethyl]indole-6-carboxamidine (Compound 125)
130 mg(0.269 mmole) of 2-[(R)-2-[[(S)-2-[2-(6-amidino-1-ethylindol-2-yl)ethyl]pyrrolidinyl]carbonyl]pyrrolidinyl]-4-hydroxybutanoic acid was dissolved in 5 ml of 3N—HCl, and the resulting solution was stirred for 18 hours at room temperature and then evaporated under reduced pressure to remove the solvent. The residue was purified with column chromatography [eluent: ethyl acetate/methanol(3:1) on NH-DM1020 silica to obtain 70 mg of the title compound as a white solid.

reactant | 2-[(R)-2-[[(S)-2-[2-(6-amidino-1-ethylindol-2-yl)ethyl]pyrrolidinyl]carbonyl]pyrrolidinyl]-4-hydroxybutanoic acid | 0.269 mmole, 130 mg | C(N)(=N)C1=CC=C2C=C(N(C2=C1)CC)CC[C@H]1N(CCC1)C(=O)[C@@H]1N(CCC1)C(C(=O)O)CCO | C26H37N5O4
solvent | HCl | Cl | ClH
product | 1-ethyl-2-[2-[(S)-1-[[(R)-1-(2-oxo-3-oxolanyl)pyrrolidin-2-yl]carbonyl]pyrrolidin-2-yl]ethyl]indole-6-carboxamidine | 70 mg | C(C)N1C(=CC2=CC=C(C=C12)C(=N)N)CC[C@H]1N(CCC1)C(=O)[C@@H]1N(CCC1)C1C(OCC1)=O | C26H35N5O3
